US07566781B2
Methyl 4-(pyridin-2-yloxy)benzenecarboxylate
2-Bromopyridine (1.00 g), methyl 4-hydroxybenzenecarboxylate (1.92 g) and potassium carbonate (874.9 mg) were stirred at 150° C. for 6 hours. Aqueous 2 N sodium hydroxide solution (50 mL) was added to the reaction liquid, extracted with diethyl ether (100 mL), and the organic layer was washed with water (50 mL) and saturated saline water (50 mL) in that order, and then evaporated under reduced pressure to obtain a pale yellow residue. The resulting residue was purified through silica gel column chromatography (hexane/ethyl acetate=9/1 to 8/2) to obtain the entitled compound (208 mg) as a pale yellow solid.

reactant | 2-Bromopyridine | 1.00 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | methyl 4-hydroxybenzenecarboxylate | 1.92 g | OC1=CC=C(C=C1)C(=O)OC | C8H8O3
reactant | potassium carbonate | 874.9 mg | C([O-])([O-])=O.[K+].[K+]
solvent | sodium hydroxide | 2 N, 50 mL | [OH-].[Na+]
product | Methyl 4-(pyridin-2-yloxy)benzenecarboxylate | 208 mg | N1=C(C=CC=C1)OC1=CC=C(C=C1)C(=O)OC | C13H11NO3
